US09340556B2
To a solution of 1-(((6R,7R)-7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)acetamido)-2-(((4-methoxybenzyl)oxy)carbonyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-3-yl)methyl)-1-((5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinolin-3-yl)methyl)pyrrolidin-1-ium (2.668 g, 80% purity, 1.632 mmol) in Dichloromethane (DCM) (15 mL) under N2 at 0° C. was added anisole (1.783 mL, 16.32 mmol), followed by TFA (5.0 mL, 64.9 mmol). The mixture was warmed up to rt and stirred at rt over night. LCMS indicated completion of the deprotection. The mixture was cooled to 0° C. Diisopropyl ether (50 mL) was then added. The mixture was stirred for 10 min and the solid was collected by filtration, and washed twice with diisopropyl ether (2×10 mL). The solid (˜2.0 g) was dissolved in a mixture of CH3CN (10 mL)/water (10 mL)/2M HCl (2.5 mL), HP20SS resin (12 g) was then added. The mixture was concentrated to dryness, and the resin was loaded in a pre-column containing HP20SS resin (15 g), and was then purified by reverse phase Combiflash using C18 column and eluting with 0-30% CH3CN/water to afford (6R,7R)-7-((Z)-2-(2-aminothiazol-4-yl)-2-(((2-carboxypropan-2-yl)oxy)imino)acetamido)-3-((1-((5-chloro-1-ethyl-6,7-dihydroxy-4-oxo-1,4-dihydroquinolin-3-yl)methyl)pyrrolidin-1-ium-1-yl)methyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate (0.66 g, 0.793 mmol, 48.6% yield) as a slightly brown solid. LCMS: (M+H)+: 790.1. 1H NMR (400 MHz, METHANOL-d4) δ ppm 1.50 (s, 3 H) 1.62 (d, J=6.57 Hz, 6 H) 2.12-2.28 (m, 4 H) 3.42-3.63 (m, 6 H) 3.95-4.05 (m, 1 H) 4.07-4.16 (m, 1 H) 4.26-4.40 (m, 3 H) 4.47-4.55 (m, 1 H) 5.30-5.37 (m, 1 H) 5.89-5.97 (m, 1 H) 6.91 (s, 1 H) 7.04-7.10 (m, 1 H) 8.17-8.24 (m, 1 H).

reactant | 1-(((6R,7R)-7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)acetamido)-2-(((4-methoxybenzyl)oxy)carbonyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-3-yl)methyl)-1-((5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinolin-3-yl)methyl)pyrrolidin-1-ium | 1.632 mmol, 2.668 g | C(C)(C)(C)OC(C(C)(C)O\N=C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)OC)C[N+]1(CCCC1)CC1=CN(C2=CC(=C(C(=C2C1=O)Cl)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)CC)\C=1N=C(SC1)NC(=O)OC(C)(C)C)=O
reactant | anisole | 16.32 mmol, 1.783 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | TFA | 64.9 mmol, 5.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Diisopropyl ether | 50 mL | C(C)(C)OC(C)C | C6H14O
solvent | Dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (6R,7R)-7-((Z)-2-(2-aminothiazol-4-yl)-2-(((2-carboxypropan-2-yl)oxy)imino)acetamido)-3-((1-((5-chloro-1-ethyl-6,7-dihydroxy-4-oxo-1,4-dihydroquinolin-3-yl)methyl)pyrrolidin-1-ium-1-yl)methyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate | 0.793 mmol, 0.66 g, 48.6% yield | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)[O-])C[N+]1(CCCC1)CC1=CN(C2=CC(=C(C(=C2C1=O)Cl)O)O)CC)=N/OC(C)(C)C(=O)O | C33H36ClN7O10S2
